US03968116
5-Chloro-3-nitro-2-aminopyridine is treated with pentafluoropropionic anhydride to obtain 5-chloro-3-nitro-2-(pentafluoropropionamido)pyridine, which when hydrogenated in the presence of palladium on carbon yields 6-chloro-1-hydroxy-2-(pentafluoroethyl)-1H-imidazo(4,5-b)pyridine, m.p., 240°-42°C.

reactant | 5-Chloro-3-nitro-2-aminopyridine | ClC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | pentafluoropropionic anhydride | FC(C(C(=O)OC(C(C(F)(F)F)(F)F)=O)(F)F)(F)F | C6F10O3
product | 5-chloro-3-nitro-2-(pentafluoropropionamido)pyridine | ClC=1C=C(C(=NC1)NC(C(C(F)(F)F)(F)F)=O)[N+](=O)[O-] | C8H3ClF5N3O3
